US06645964B1
300 cm3 of nitrobenzene are introduced into a 1-dm3 three-necked flask and then 11.2 g (0.0446 mol) of 2-acetamido-9-aminoacridine and 11 cm3 (0.116 mol) of dimethyl sulphate are successively introduced, with stirring. The mixture is then heated at 140° C. for 20 minutes. After cooling, the precipitate obtained is filtered, washed with 20 cm3 of nitrobenzene and six times 20 cm3 of diethyl ether, air-dried and 14.35 g (85%) of 2-acetamido-9-amino-10-methylacridinium sulphate are obtained.

reactant | 2-acetamido-9-aminoacridine | 0.0446 mol, 11.2 g | C(C)(=O)NC1=CC2=C(C3=CC=CC=C3N=C2C=C1)N | C15H13N3O
reactant | dimethyl sulphate | 0.116 mol, 11 cm3 | S(=O)(=O)(OC)OC | C2H6O4S
solvent | nitrobenzene | 300 cm3 | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-acetamido-9-amino-10-methylacridinium sulphate | 14.35 g, 85% | S(=O)(=O)([O-])[O-].C(C)(=O)NC1=CC2=C(C3=CC=CC=C3[N+](=C2C=C1)C)N.C(C)(=O)NC1=CC2=C(C3=CC=CC=C3[N+](=C2C=C1)C)N | InChI=1S/2C16H15N3O.H2O4S/c2*1-10(20)18-11-7-8-15-13(9-11)16(17)12-5-3-4-6-14(12)19(15)2;1-5(2,3)4/h2*3-9,17H,1-2H3,(H,18,20);(H2,1,2,3,4)
